US08895313B2
5-Methoxy-2-aminobenzenethiol
A mixture of 2-amino-6-methoxybenzothiazole (15 g, 83.2 mmol), ethylene glycol (20.23 g, 0.33 mol) and 50% w/v KOH (100 ml) was heated under reflux for 24 h. On cooling to room temperature, toluene (60 ml) was added and the reaction mixture was cooled in an ice-bath and acidified with acetic acid (final pH 5-6). The reaction mixture was extracted with toluene (5×300 ml) and the combined organic extracts were washed with brine (2×200 ml), dried (MgSO4) and the solvent removed under reduced pressure to give the title compound (11.1 g, 86%) as a yellow solid which was used without further purification.

reactant | 2-amino-6-methoxybenzothiazole | 83.2 mmol, 15 g | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | ethylene glycol | 0.33 mol, 20.23 g | C(CO)O | C2H6O2
reactant | KOH | 100 ml | [OH-].[K+]
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Methoxy-2-aminobenzenethiol | 11.1 g, 86% | COC=1C=CC(=C(C1)S)N | C7H9NOS
